US08071774B2
b) Methyl 6′-methoxy-2′-oxo-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indole]-1′(2′H)-carboxylate
A solution of 1 mmol of 6′-methoxy-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indol]-2′(1′H)-one in 5 ml of N,N-dimethyl formamide is treated with 1.2 mmol of sodium hydride (60% dispersion in oil). The reaction mixture is stirred for 20 minutes at room temperature, then 1.2 mmol of methyl chloroformate are added. The reaction mixture is stirred for 20 minutes at room temperature, then diluted with water and extracted with tert-butyl methyl ether (3×). The combined organic phases are dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 6′-methoxy-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indol]-2′(1′H)-one | 1 mmol | COC1=CC=C2C3(C(NC2=C1)=O)C=1N(CCC3)C=NC1 | C15H15N3O2
reactant | sodium hydride | 1.2 mmol | [H-].[Na+]
reactant | methyl chloroformate | 1.2 mmol | ClC(=O)OC | C2H3ClO2
solvent | N,N-dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 6′-methoxy-2′-oxo-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indole]-1′(2′H)-carboxylate | COC1=CC=C2C3(C(N(C2=C1)C(=O)OC)=O)C=1N(CCC3)C=NC1 | C17H17N3O4
